US07723329B2
2-(2-Chloro-ethoxy)-6-(naphthalene-1-sulfonylmethyl)-phenyl amine
A mixture of 1-[3-(2-chloro-ethoxy)-2-nitro-phenyl-methanesulfonyl]-naphthalene (1.24 g, 3.5 mmoles) and 10% Pd/C in THF (20 mL), methanol (5 mL), and formic acid (5 mL) was hydrogenated in a Parr hydrogenation bottle (250 mL) at 40 lb/in2 for 20 hours. The mixture was filtered through Celite, and the filtrate was diluted with EtOAc, washed with water, dried over Na2SO4, and concentrated under vacuum. The crude product was purified by flash chromatography using as eluent 5% EtOAc/CH2Cl2 to afford the title compound as an off-white solid (1.0 g, 3.1 mmoles).

reactant | 1-[3-(2-chloro-ethoxy)-2-nitro-phenyl-methanesulfonyl]-naphthalene | 3.5 mmoles, 1.24 g | ClCCOC=1C(=C(C=CC1)CS(=O)(=O)C1=CC=CC2=CC=CC=C12)[N+](=O)[O-] | C19H16ClNO5S
reactant | formic acid | 5 mL | C(=O)O | CH2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(2-Chloro-ethoxy)-6-(naphthalene-1-sulfonylmethyl)-phenyl amine | 3.1 mmoles, 1.0 g | ClCCOC1=C(C(=CC=C1)CS(=O)(=O)C1=CC=CC2=CC=CC=C12)N | C19H18ClNO3S
